US04000275
2-Bromo-8,9-dimethylbenzimidazo[2,1-b]quinazolin-12(6H)-one is prepared with 2-chloro-5,6-dimethylbenzimidazole and 5-bromoanthranilic acid.

reactant | 2-chloro-5,6-dimethylbenzimidazole | ClC=1NC2=C(N1)C=C(C(=C2)C)C | C9H9ClN2
reactant | 5-bromoanthranilic acid | BrC1=CC=C(C(C(=O)O)=C1)N | C7H6BrNO2
product | 2-Bromo-8,9-dimethylbenzimidazo[2,1-b]quinazolin-12(6H)-one | BrC=1C=C2C(N3C(=NC2=CC1)NC1=C3C=C(C(=C1)C)C)=O | C16H12BrN3O
